data/mechanisms/records/IMS8-EQ8.98.json
{"mechanism_id": "IMS8-EQ8.98", "species": [{"species_id": "protonated_propanal", "mapped_smiles": "[CH2:1]([1H:6])[CH:2]([1H:5])[CH:3]=[OH+:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "hydroxypropan_2_ylium", "mapped_smiles": "[CH2:1]([1H:6])[CH+:2][CH:3]([1H:5])[OH:4]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "allyl_oxonium", "mapped_smiles": "[CH2:1]=[CH:2][CH:3]([1H:5])[OH+:4][1H:6]", "role": "intermediate", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "allyl_cation", "mapped_smiles": "[CH2:1]=[CH:2][CH+:3][1H:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "water_neutral_loss", "mapped_smiles": "[OH:4][1H:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_protonated_aldehyde", "species_ids": ["protonated_propanal"]}, {"state_id": "state_carbenium", "species_ids": ["hydroxypropan_2_ylium"]}, {"state_id": "state_oxonium", "species_ids": ["allyl_oxonium"]}, {"state_id": "state_products", "species_ids": ["allyl_cation", "water_neutral_loss"]}], "steps": [{"step_id": "step_rH_1_2_hydride_shift", "from_state": "state_protonated_aldehyde", "to_state": "state_carbenium", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 5]}, "target": {"type": "bond", "atom_maps": [3, 5]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "lone_pair", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rH_proton_transfer_to_hydroxyl", "from_state": "state_carbenium", "to_state": "state_oxonium", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 6]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "lone_pair", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [4, 6]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_i_water_loss", "from_state": "state_oxonium", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "lone_pair", "atom_maps": [4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_98_rH_1_2", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_1_2_hydride_shift", "support_type": "textbook_proposed", "locator": {"page": 207, "equation": "8.98", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.8, "curator_note": "Equation 8.98, top row: the horizontal reaction arrow labelled 'r H' above and '1, 2' below, CH3CH2CH=OH+ -> CH3-CH(+)-CH2OH. CONCRETE SUBSTRATE: the book prints both structures in full, so nothing had to be instantiated. The reacting ion is the protonated aldehyde (MH+ of propanal, C3H7O+); the running text introduces the scheme as 'the ubiquitous loss of water from protonated aldehydes and ketones is preceded by hydrogen or skeletal rearrangements that move the positive charge site away from the C-OH group (Equation 8.98)'. CHARGE/RADICAL (convention B): the printed '+' sits on the oxygen of the oxocarbenium (=OH+) on the left and on the central carbon on the right, and the mapped_smiles localize them exactly there; the ion is closed-shell (even-electron) at every stage of Equation 8.98 and no radical appears anywhere in the scheme. REACTION AS DRAWN: a 1,2-hydride shift -- H5 migrates with its bonding pair from C2 to the carbinol carbon C3 while the C3=O4 pi pair collapses onto oxygen, leaving the carbenium centre on C2. ARC COUNT: Book draws 0 arc(s) for this step; no curved arrow is printed on the top row at all -- the transformation is conveyed only by the 'r H' / '1, 2' label over the reaction arrow. Moves <1> and <2> are therefore curator-inferred from the drawn reactant and product structures rather than transcribed from drawn arcs; both are two-electron (heterolytic) arrows and no implicit homolysis hook exists, because an even-electron ion has no odd electron to push. ENCODING DEVICE: the migrating hydrogens are written as isotope-labelled explicit atoms [1H:5] and [1H:6] so that RDKit keeps them as mapped vertices (a plain [H:5] is folded back into the heavy atom's implicit-H count and every arrow touching it becomes untranscribable); 1H is protium, so this device changes no mass. MS CONTEXT (convention G), disclosed because it is partly inferred: page 207 does NOT name an ionization technique for Equation 8.98 -- it identifies the reactant only as a 'protonated aldehyde', i.e. an MH+ ion, and the whole of section 8.10's EE+ discussion is about MH+ ions (the same page names 'methane CI' explicitly, though for the different vicinal-aminoalcohol example two paragraphs later, and the cited sources -- Bowen and Williams 1980, Audier et al. 1980, Wolfschuetz et al. 1982a,b -- are studies of protonated species). ms_context is therefore set to the protonated-molecule template: adduct '[M+H]+', ionization_method 'CI', activation_method 'chemical ionization', electron_energy_ev null, precursor_mz 59.0491 = MH+ of propanal (M 58.0419). It is emphatically NOT 70 eV EI of an [M]+. radical cation: no odd-electron species occurs anywhere in this scheme. The two intermediates are isomerized MH+ ions of the same composition and the same m/z 59.0491, not fragments, which is why the adduct label is kept for the whole cascade."}, {"evidence_id": "ev_step_8_98_rH_to_oxygen", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rH_proton_transfer_to_hydroxyl", "support_type": "textbook_proposed", "locator": {"page": 207, "equation": "8.98", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.9, "curator_note": "Equation 8.98, middle of the scheme: the vertical arrow labelled 'r H' leading into the folded drawing, plus the two arcs inside that drawing. WHAT THE FOLDED DRAWING IS: not a new species. 'CH2(-H) ... CH-CH2-O-H' redraws the SAME ion the first step produced (CH3-CH(+)-CH2OH) in the conformation that makes the H-transfer geometry visible, so it is encoded as this step's reactant state and NOT as an extra intermediate. The book does not print a '+' on that folded structure -- the carbenium centre is implied by the trivalent 'CH' -- and the mapped_smiles makes it explicit (convention B). REACTION AS DRAWN: a 1,4- (gamma-) proton transfer through a five-membered arrangement (H6, C1, C2, C3, O4): the methyl C1-H6 bonding pair moves into the forming C1=C2 pi bond, quenching the carbenium centre, while an oxygen lone pair captures the departing proton, giving the oxonium CH2=CH-CH2-OH2+. The text motivates it: 'the newly formed carbocationic center activates protons in adjacent positions for transfer onto the basic hydroxyl group'. ARC COUNT: Book draws 2 arc(s), both full double-barbed (two-electron) arrows, and both are transcribed verbatim: move <1> is the arc whose tail sits on the C1-H bond and whose head lands on the C1-C2 bond (the forming pi bond), move <2> is the arc that starts at the oxygen and sweeps up and to the left onto the migrating hydrogen. No implicit hook is required -- the two drawn arcs already balance the step. TWO HONEST QUALIFICATIONS: (i) the head of drawn arc <2> points at the hydrogen atom itself rather than at the O-H bond; it is encoded as lone_pair(O4) -> bond(O4,H6), which is the bond that actually forms; (ii) neither arc is a fishhook (zoomed inspection shows two full barbs on each head), consistent with an even-electron ion."}, {"evidence_id": "ev_step_8_98_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_i_water_loss", "support_type": "textbook_proposed", "locator": {"page": 207, "equation": "8.98", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.98, bottom of the scheme: the short vertical arrow labelled with an italic 'i' (inductive cleavage), CH2=CH-CH2-OH2+ -> CH2---CH---CH2(+) + H2O. REACTION AS DRAWN: heterolysis of the C3-O4 bond of the oxonium with both electrons staying on oxygen, expelling neutral water and leaving the allyl cation. ARC COUNT: Book draws 0 arc(s) for this step -- only the italic 'i' on the arrow -- so move <1> is curator-inferred from the drawn reactant and products; it is a single two-electron heterolysis, with no fishhook and no implicit homolysis hook. DELOCALISATION (convention C): the book prints the product as CH2 ==== CH ==== CH2 with dashed half-bonds and one '+' over the central carbon, i.e. the fully delocalised allyl cation. This record commits to ONE localised form, CH2=CH-CH2(+) (C1=C2 double bond, charge on C3), and the arrows produce exactly that form; the mirror form (+)CH2-CH=CH2 is the same species by resonance and is what the dashed drawing averages. MASSES AND INTENSITIES (convention F): page 207 prints NO m/z and NO intensity anywhere for Equation 8.98, so every mass in this record is curator-computed from the instantiated structures (protonated propanal C3H7O+ 59.0491; the two isomeric C3H7O+ intermediates are at the same mass; allyl cation C3H5+ 41.0386; water 18.0106). Consequently every species carries detected=false and the single peak assignment carries status 'inferred' with no relative_intensity."}], "ms_context": {"ionization_method": "CI", "polarity": "positive", "adduct": "[M+H]+", "activation_method": "chemical ionization", "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 59.0491, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_41_allyl", "species_id": "allyl_cation", "step_id": "step_i_water_loss", "observed_mz": 41.0386, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
